US07470664B2
Step 3: 2-Benzyl-4-vinylisoindoline
A solution of 2-benzyl-4-bromoisoindoline (16.7 g, 58.0 mmol) and tributyl(vinyl)tin (20.3 mL, 69.6 mmol) in toluene (400 mL) was degassed by bubbling nitrogen gas through the solution for 0.25 h. Tetrakis(triphenylphosphine)palladium (0) (1.30 g, 1.16 mmol) was added and the resulting solution heated in a 100° C. oil bath under nitrogen for 24 h. The contents of the reaction flask were cooled, evaporated and subjected to flash column chromatography eluting with hexane/ethyl acetate 95/5 to give after evaporation the title compound as a pale oil that turned pink on standing. LRMS (ESI) m/z 236 [(M+H)+; calcd for C17H18N: 236].

reactant | 2-benzyl-4-bromoisoindoline | 58.0 mmol, 16.7 g | C(C1=CC=CC=C1)N1CC2=CC=CC(=C2C1)Br | C15H14BrN
reactant | tributyl(vinyl)tin | 69.6 mmol, 20.3 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium | 1.16 mmol, 1.30 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Benzyl-4-vinylisoindoline | C(C1=CC=CC=C1)N1CC2=CC=CC(=C2C1)C=C | C17H17N
